US05358950
2.5 g of 2- {[4 - {[7 -n-propyl-5-methyl- 3-oxo-2-(ethoxycarbonylmethyl)-2,3-dihydro-1,2,4-triazolo[4,3-c]-pyrimidin- 8-Yl]methyl}phenyl]aminocarbonyl}benzenesulphonic acid, prepared in Example 34, are dissolved in 30 ml of water containing 1 g of sodium hydroxide. The mixture is heated to 60° C. for 2 hours, cooled and acidified with hydrochloric acid to give 2 g of 2-{[4-{[7-n-propyl-5-methyl-3-oxo-2-(carboxymethyl)-2,3-dihydro-1,2,4-triazolo[4,3-c]pyrimidin-8-yl]methyl}phenyl]-aminocarbonyl}benzenesulphonic acid in the form of crystals of melting point 296°-300° C.

reactant | 2- {[4 - {[7 -n-propyl-5-methyl- 3-oxo-2-(ethoxycarbonylmethyl)-2,3-dihydro-1,2,4-triazolo[4,3-c]-pyrimidin- 8-Yl]methyl}phenyl]aminocarbonyl}benzenesulphonic acid | 2.5 g | C(CC)C1=C(C=2N(C(=N1)C)C(N(N2)CC(=O)OCC)=O)CC2=CC=C(C=C2)NC(=O)C2=C(C=CC=C2)S(=O)(=O)O | C27H29N5O7S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 ml, 1 g | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 2-{[4-{[7-n-propyl-5-methyl-3-oxo-2-(carboxymethyl)-2,3-dihydro-1,2,4-triazolo[4,3-c]pyrimidin-8-yl]methyl}phenyl]-aminocarbonyl}benzenesulphonic acid | 2 g | C(CC)C1=C(C=2N(C(=N1)C)C(N(N2)CC(=O)O)=O)CC2=CC=C(C=C2)NC(=O)C2=C(C=CC=C2)S(=O)(=O)O | C25H25N5O7S
